US07700594B2
4-Methoxy-1-methyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole
Prepared according to a procedure analogous to that described for 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole using 4-methoxy-1-methyl-1H-indole.

reactant | 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | ClC=1C=CC=C2C=C(NC12)B1OC(C(O1)(C)C)(C)C | C14H17BClNO2
reactant | 4-methoxy-1-methyl-1H-indole | COC1=C2C=CN(C2=CC=C1)C | C10H11NO
product | 4-Methoxy-1-methyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | COC1=C2C=C(N(C2=CC=C1)C)B1OC(C(O1)(C)C)(C)C | C16H22BNO3
